US08754226B2
To a nitrogen purged reaction vessel was added Pd2 dba3 (0.0129 g, 0.0141 mmol), Cs2CO3 (0.229 g, 0.703 mmol), Binap-rac (0.035 g, 0.0563 mmol), 2-chloro-5-ethyl-3-methylpyridine (0.037 g, 0.234 mmol) and (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (Preparation E; 0.100 g, 0.281 mmol). Toluene (3 mL, purged with nitrogen) was added and the reaction was heated at 110° C. overnight. The reaction was cooled to ambient temperature, diluted with EtOAc and washed with water. The combined organic layers were dried over Na2SO4 and purified by preparative HPLC (Parallex Flex) to give 1-(1-(5-ethyl-3-methylpyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one (0.026 g, 23% yield) as white solids. Mass spectrum (apci) m/z=475.3 (M+H).

reactant | Cs2CO3 | 0.703 mmol, 0.229 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloro-5-ethyl-3-methylpyridine | 0.234 mmol, 0.037 g | ClC1=NC=C(C=C1C)CC | C8H10ClN
reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 0.281 mmol, 0.100 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H22FN3O3S
reactant | Toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2 dba3 | 0.0141 mmol, 0.0129 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(1-(5-ethyl-3-methylpyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one | 0.026 g, 23% yield | C(C)C=1C=C(C(=NC1)N1CCC(CC1)N1C(C(CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O)C | C24H31FN4O3S
